US06777559B2
1-(1-Benzenesulfonyl-1H-indol-2-yl)-allyl alcohol
10.3 g (40 mmol) of 1-(phenylsulfonyl)indole (synthesized analogous to T. Sakamoto; Y. Kondo; N. Takazawa; H. Yamanaka; J.Chem.Soc.Perkin Trans.1; 16; 1996; 1927-1934) in 110 ml tetrahydrofuran were cooled to −20° C. To the stirred solution 30 ml of 1.6 M n-butyllithium were added at −20° C. within 20 min. The resulting suspension was warmed to 10° C. and stirred at 10° C. for 4 hours. The mixture was again cooled to −20° C. and a solution of 3.4 g acrolein (61 mmol) in 20 ml THF was added dropwise within 20 min at −20° C. The solution was stirred at 20° C. for 16 hours. 150 ml water was added dropwise, the mixture was vigorously stirred for 10 min. The phases were separated, and the water phase was extracted with 3×100 ml of methyl-t-butyl-ether. The combined organic phases were washed with 100 ml of brine, dried on sodium sulfate and rotary evaporated (35° C., 20 mbar). The residue was purified by liquid chromatography (eluent toluene/ethyl acetate 6:1), the pure fractions were collected and rotary evaporated (40° C./15 mbar).

reactant | 1-(phenylsulfonyl)indole | 40 mmol, 10.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
reactant | n-butyllithium | 1.6 M, 30 ml | C(CCC)[Li]
reactant | acrolein | 61 mmol, 3.4 g | C(=O)C=C | C3H4O
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(1-Benzenesulfonyl-1H-indol-2-yl)-allyl alcohol | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)O | C17H15NO3S
